US07279469B2
4-Chloro-6-(4-methyl-piperazin-1-yl)-pyrimidine, (200 mg, 0.94 mmol), and hydrazine hydrate, (200 μl, 4 mmol), were heated to 180° for 6 min in a Personal Chemistry Microwave. The solvent was evaporated affording [6-(4-Methyl-piperazin-1-yl)-pyrimidin-4-yl]-hydrazine as yellow brown crystals which were used without further purification.

reactant | 4-Chloro-6-(4-methyl-piperazin-1-yl)-pyrimidine | 0.94 mmol, 200 mg | ClC1=NC=NC(=C1)N1CCN(CC1)C | C9H13ClN4
reactant | hydrazine hydrate | 4 mmol, 200 μl | O.NN
product | [6-(4-Methyl-piperazin-1-yl)-pyrimidin-4-yl]-hydrazine | CN1CCN(CC1)C1=CC(=NC=N1)NN | C9H16N6
